US06797820B2
To mono-4-methyl 2-(R)-butylsuccinic acid (0.2 mmol) in dioxane (1 mL) was added amine 2 (0.2 mmol), DIEA (0.4 mmol) and an activating reagent (e.g. EDC, PyBOP, DIC, DCC, etc.; 0.2 mmol); and the mixture was stirred for 2 h. Aqueous 50% hydroxylamine was added (1.5 mL) and the mixture was stirred an additional 1-2 days. The reaction mixture can then be purified by preparative reverse-phase (C18) HPLC to afford N-hydroxy-3-(R)-n-butyl-3-aminocarbonylpropionamide.

reactant | DIEA | 0.4 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
reactant | DCC | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | hydroxylamine | NO | H3NO
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | EDC
product | N-hydroxy-3-(R)-n-butyl-3-aminocarbonylpropionamide | ONC(C[C@H](C(=O)N)CCCC)=O | C8H16N2O3
